US06197725B1
A mixture of 27.5 g of 2-dodecylsulfonyl-4-chloronitrobenzene, 5.5 g of pyrrolidine, 138 g of potassium carbonate and 70 ml of dimethylacetamide was stirred for 3 hours at 90° C. To this reaction mixture was added 210 ml of water, and the precipitated crystal was collected by filtration and recrystallized with acetonitrile to obtain 12.7 g of 2-decylsulfonyl-4-pyrrolidinonitrobenzene.

reactant | 2-dodecylsulfonyl-4-chloronitrobenzene | 27.5 g | C(CCCCCCCCCCC)S(=O)(=O)C1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C18H28ClNO4S
reactant | pyrrolidine | 5.5 g | N1CCCC1 | C4H9N
reactant | potassium carbonate | 138 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylacetamide | 70 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 210 ml | O | H2O
product | 2-decylsulfonyl-4-pyrrolidinonitrobenzene | 12.7 g | C(CCCCCCCCC)S(=O)(=O)C1=C(C=CC(=C1)N1CCCC1)[N+](=O)[O-] | C20H32N2O4S
